US07915261B2
10% Palladium-carbon (catalytic amount) was added to a THF (75 ml)/2-propanol (75 ml) solution containing 3-pyridyl 4-[3-(benzyloxy)phenoxy]-1-piperidinecarboxylate (4.0 g), and in a hydrogen gas atmosphere, this was stirred at room temperature under normal pressure for 24 hours. The catalyst was removed by filtration, and the filtrate was concentrated under reduced pressure, and the resulting solid was washed with EtOAc/hexane, and dried under reduced pressure to obtain 3-pyridyl 4-(3-hydroxyphenoxy)-1-piperidinecarboxylate (2.2 g).

reactant | THF | 75 ml | C1CCOC1 | C4H8O
reactant | 3-pyridyl 4-[3-(benzyloxy)phenoxy]-1-piperidinecarboxylate | 4.0 g | C(C1=CC=CC=C1)OC=1C=C(OC2CCN(CC2)C(=O)OC=2C=NC=CC2)C=CC1 | C24H24N2O4
reactant | hydrogen | [H][H] | H2
catalyst | Palladium-carbon | [C].[Pd]
solvent | 2-propanol | 75 ml | CC(C)O | C3H8O
product | 3-pyridyl 4-(3-hydroxyphenoxy)-1-piperidinecarboxylate | 2.2 g | OC=1C=C(OC2CCN(CC2)C(=O)OC=2C=NC=CC2)C=CC1 | C17H18N2O4
